US08476261B2
50F) Preparation of ethyl 3-[1-(2-hydroxypropyl)cyclobutylamino]-2-(2,3,4,5-tetrafluorobenzoyl)acrylate
A stirred solution of ethyl 3-oxo-3-(2,3,4,5-tetrafluorophenyl)propionate (2.45 g, 9.27 mmol), Ac2O (5.30 mL, 56.1 mmol) and triethyl orthoformate (3.10 mL, 18.6 mmol) was heated at 120° C. for 3 hours. The mixture was concentrated in vacuo and dried under high vacuum. To 1-[1-aminocyclobutyl]-2-propanol (1.20 g, 9.29 mmol) in anhydrous toluene (10 mL) was slowly added to a mixture of the residue in anhydrous toluene (30 mL) at 0° C. and stirred at room temperature for 2 hours. The solvent was removed by evaporation. Flash chromatography (AcOEt:Hexane=1:1) of the residue gave the title compound as a pale yellow solid (3.10 g, 83%). 1H-NMR (400 MHz, CDCl3) δ 0.95 (0.6H, t, J=7.3 Hz), 1.09 (2.4H, t, J=7.3 Hz), 1.29 (3H, d, J=6.1 Hz), 1.51 (1H, brs), 1.83-2.05 (4H, m), 2.18-2.35 (3H, m), 2.41-2.53 (1H, m), 3.95-4.15 (3H, m), 6.96-7.13 (1H, m), 8.27 (0.8H, d, J=14.7 Hz), 8.31 (0.2H, d, J=14.7 Hz), 10.30 (0.2H, d, J=13.4 Hz), 11.56 (0.8H, d, J=13.4 Hz).

reactant | ethyl 3-oxo-3-(2,3,4,5-tetrafluorophenyl)propionate | 9.27 mmol, 2.45 g | O=C(CC(=O)OCC)C1=C(C(=C(C(=C1)F)F)F)F | C11H8F4O3
reactant | Ac2O | 56.1 mmol, 5.30 mL | CC(=O)OC(=O)C | C4H6O3
reactant | triethyl orthoformate | 18.6 mmol, 3.10 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | 1-[1-aminocyclobutyl]-2-propanol | 9.29 mmol, 1.20 g | NC1(CCC1)CC(C)O | C7H15NO
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-[1-(2-hydroxypropyl)cyclobutylamino]-2-(2,3,4,5-tetrafluorobenzoyl)acrylate | 3.10 g, 83% | OC(CC1(CCC1)NC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)F)F)=O)C | C19H21F4NO4
